US05382380
A reaction vessel was charged with 5.7 g of p-terphenyl and 40 ml of methylene chloride. To this mixture was added 4 g of anhydrous aluminum chloride with stirring at 0° C. A solution of 5.2 g of decanoyl chloride in 10 ml of methylene chloride was added dropwise. After the dropwise addition, the mixture was stirred for 5 hours. The reaction liquid was poured into diluted hydrochloric acid and the mixture was stirred well. Insolubles were collected by filtration, washed and dried to obtain 6.8 g (71%) of 4-decanoyl-p-terphenyl.

reactant | p-terphenyl | 5.7 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H14
reactant | aluminum chloride | 4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | decanoyl chloride | 5.2 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-decanoyl-p-terphenyl | 6.8 g, 71% | C(CCCCCCCCC)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C28H32O
